US04167638
4-Amino-3-nitroanisole was subjected to a Skraup reaction with 90% methacrolein at 110° to afford a 50% yield of 6-methoxy-3-methyl-8-nitroquinoline. The compound crystallized from ethyl acetate as a yellow solid, mp 173°-175°.

reactant | 4-Amino-3-nitroanisole | NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H8N2O3
reactant | methacrolein | O=CC(C)=C | C4H6O
product | 6-methoxy-3-methyl-8-nitroquinoline | 50% yield | COC=1C=C2C=C(C=NC2=C(C1)[N+](=O)[O-])C | C11H10N2O3
